US07087599B2
A solution of diisopropylamine (0.227 mL, 1.62 mmol) in anhydrous tetrahydrofuran (THF, 15 mL) was placed under a nitrogen atmosphere, cooled in an ice bath, and stirred while a 2.0M solution of butyllithium in pentane (0.771 mL, 1.54 mmol) was added dropwise over 2 minutes. The solution was stirred at room temperature for 15 minutes, then cooled in a dry ice-acetone bath and treated dropwise over 3 minutes with a solution of 5-methoxy-1-indanone (250 mg, 1.54 mmol) in THF (2 mL). After stirring at −78° C. for 20 minutes, the reaction mixture was treated with butyraldehyde (0.167 mL, 1.85 mmol). After stirring an additional 26 minutes at −78° C., the reaction mixture was removed from the cooling bath and stirred at room temperature for 90 hours. The reaction mixture was treated with saturated aqueous NH4Cl solution (10 mL) and extracted with EtOAc (15 mL). The organic phase was washed with brine (25 ml), dried over MgSO4, filtered, and evaporated under vacuum to an oil (353 mg). The crude product was purified by silica gel chromatography on a Biotage FLASH 12M column (1.2×15 cm), eluting with 7:1 hexanes-EtOAc, to afford 2-butylidene-5-methoxy-1-indanone (205 mg) as a solid.

reactant | diisopropylamine | 1.62 mmol, 0.227 mL | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | C(CCC)[Li]
reactant | pentane | 1.54 mmol, 0.771 mL | CCCCC | C5H12
reactant | 5-methoxy-1-indanone | 1.54 mmol, 250 mg | COC=1C=C2CCC(C2=CC1)=O | C10H10O2
reactant | butyraldehyde | 1.85 mmol, 0.167 mL | C(CCC)=O | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | THF | 2 mL | O1CCCC1 | C4H8O
product | 2-butylidene-5-methoxy-1-indanone | 205 mg | C(CCC)=C1C(C2=CC=C(C=C2C1)OC)=O | C14H16O2
